US08754079B2
43.2 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide
0.129 g 3-dimethylaminopropylamine was added to 0.155 g 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester in 2 ml DMF and stirred at rt for 30 minutes. The reaction mixture was concentrated. The residue was dissolved in EtOAc, washed with water and brine, passed through a hydrophobic frit and concentrated.

reactant | 3-dimethylaminopropylamine | 0.129 g | CN(CCCN)C | C5H14N2
reactant | 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.155 g | O=C1N(C(CC1)=O)OC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCCC2)OC)S1)C | C25H25FN4O6S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCCC2)OC)S1)C)C | C26H34FN5O3S
